* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=8.40703014426e-11
.param C2=2.76082241934e-11
.param Csh=6.90286604325e-11
.param L1=4.73359141134e-07
.param Vsrc_amp=553.159021594
.param ne=1.43602374818e+15
.param nu_m=57604327.9521

* Sources
Vsrc src 0 SIN(0 553.159021594 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 4.44056164373
Lbulk nb ns 7.70872919033e-08
Csh ns n 6.90286604325e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
